US05559105
h) (2E)-3(2-n-Butyl-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid
To a flask containing (2E)-3(2-n-butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid (32 mg, 0.05 mmol) was added at 0° HF.pyridine (3 ml) and the reaction stirred for 15 min. The solution was diluted with water (1-2 ml), 3N HCl (1 ml), and brine (2 ml). The pH was raised to 3.5 with addition of 2.5N NaOH and the solution extracted with EtOAc (5x). The EtOAc was removed under reduced pressure and the residue taken up in water which was acidified to pH 3.5 with 1 drop of 1N HCl. The copious white ppt was collected and air dried to afford the hydrochloride salt of the title compound as a tan solid. (15 mg, 59% )

reactant | (2E)-3(2-n-butyl-1-trimethylsilylethyloxymethoxy-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid | 0.05 mmol, 32 mg | C(CCC)C=1N(C(=CN1)/C(=C(/C(=O)O)\CC1=CC2=C(C=C1)OCO2)/C2=C(C=C(C=C2)OC)OCC(=O)O)OCOC(C)[Si](C)(C)C | C33H42N2O10Si
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | water | 1-2 ml | O | H2O
solvent | HCl | 3N, 1 ml | Cl | ClH
solvent | brine | 2 ml | [Cl-].[Na+].O
product | (2E)-3(2-n-Butyl-1H-imidazol-5-yl)-3-(2-carboxymethoxy-4-methoxyphenyl)-2-(3,4-methylenedioxybenzyl)prop-2-enoic acid | C(CCC)C=1NC(=CN1)/C(=C(/C(=O)O)\CC1=CC2=C(C=C1)OCO2)/C2=C(C=C(C=C2)OC)OCC(=O)O | C27H28N2O8
